US07700633B2
3,6-Bis-benzyloxy-2-bromo-naphthalene (2.47 g, 5.89 mmol), benzophenone imine (1.19 mL, 7.07), Pd2(dba)3 (0.013 g, 0.015 mmol), BINAP (0.027 g, 0.044 mmol) and sodium methoxide (0.445 g, 8.25 mmol) are added to a dry flask over nitrogen. Toluene (10 mL) is added at ambient temperature and the reaction heated to 110° C. for 15 h. The reaction mixture is poured into water and extracted with ethyl acetate. The organic layer is dried and evaporated to afford a brown oil, which is chromatographed over silica, eluting with a gradient of 100:1 to 20:1 hexanes/MTBE, to afford benzhydrylidene-(3,6-bis-benzyloxynaphthalen-2-yl)-amine.

reactant | 3,6-Bis-benzyloxy-2-bromo-naphthalene | 5.89 mmol, 2.47 g | C(C1=CC=CC=C1)OC=1C(=CC2=CC=C(C=C2C1)OCC1=CC=CC=C1)Br | C24H19BrO2
reactant | benzophenone imine | 1.19 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | BINAP | 0.044 mmol, 0.027 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium methoxide | 8.25 mmol, 0.445 g | C[O-].[Na+]
catalyst | Pd2(dba)3 | 0.015 mmol, 0.013 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | benzhydrylidene-(3,6-bis-benzyloxynaphthalen-2-yl)-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC2=CC=C(C=C2C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C37H29NO2
